US07662831B2
Following the procedure of Example 1, Step 3, 2-nitro-8-oxo-5,6,9,10,11,12-hexahydro-4H,8H-cyclohepta[4,5]pyrrolo[3,2,1-ij]quinoline (0.10 g, 0.37 mmol) and 5% palladium on carbon (30 mg) in ethanol (25 mL) was hydrogenated to provide 8-oxo-5,6,9,10,11,12-hexahydro-4H,8H-cyclohepta[4,5]pyrrolo[3,2,1-ij]quinolin-2-amine.

reactant | 2-nitro-8-oxo-5,6,9,10,11,12-hexahydro-4H,8H-cyclohepta[4,5]pyrrolo[3,2,1-ij]quinoline | 0.37 mmol, 0.10 g | [N+](=O)([O-])C=1C=C2CCCN3C2=C(C1)C1=C3C(CCCC1)=O | C16H16N2O3
catalyst | palladium on carbon | 30 mg | [Pd] | Pd
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 8-oxo-5,6,9,10,11,12-hexahydro-4H,8H-cyclohepta[4,5]pyrrolo[3,2,1-ij]quinolin-2-amine | O=C1CCCCC2=C1N1CCCC3=CC(=CC2=C13)N | C16H18N2O
